* AD8033 Spice Model
* Description: Amplifier
* Generic Desc: Single  high-speed FET input amplifier
* Developed by: TRW/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 5.0
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*       distortion is not characterized       
*	output current limit is not characterized
*
* Parameters modeled include:
*       output clamping voltage
*	input common mode range for FET input
*       input impedance			
*       slew rate
*       Vos is static and will not vary
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT AD8033 1 2 99 50 45
				 
* FET INPUT STAGE
Ib1 1 98 7p
ib2 2 98 7P

Vos 2 9 1e-3
J1 5 9 10 NMOD 
J2 6 1 10 NMOD 
R3 99 5 rnoise 1k
R4 99 6 rnoise 1k
I1 10 50 1e-3
*Cin1 1 98 1p
*Cin2 2 98 1p
			  
* GAIN STAGE & POLE AT 2 kHz
Eref 98 0 POLY(2) 99 0 50 0 0 .5 .5 
G1 98 13 5 6 3.137m
R7 13 98 rnoise 12.732Meg
C3 13 98 1.25e-11
V1 99 14 0.767
V2 16 50 0.777
D1 13 14 DX
D2 16 13 DX

*POLE AT 60 MHz
G2 98 43 13 98 1
R10 43 98 rnoise 1
C5 43 98 2.65n

*POLE AT 100 MHz
G3 98 53 43 98 1
R11 53 98 rnoise 1
C6 53 98 1.59n

*POLE AT 300MHz
G4 98 63 53 98 1
Rp11 63 98 rnoise 1
Cp11 63 98 159p

* BUFFER STAGE
Gbuf 98 32 63 98 1e-3
Rbuf 32 98 rnoise 1000

* OUTPUT STAGE

Iq 99 50 2.3e-3
R13 99 44 20
R14 44 50 20
G13 44 99 99 32 .05
G14 50 44 32 50 .05
Vout 44 45 0

.MODEL NMOD NJF(VTO=-2 beta=5e-4 IS=1.5e-12)
.MODEL DX D(IS=1e-15) 
.model rnoise RES(t_abs=-273)
.model dz d(bv=50)
.ENDS




